US05616537
Preparation of Benzyl 5-(4,6-Dimethoxy-1,3,5-triazin-2-yl)oxy-2-methyl-3-methoxycarbonylbenzofuran-4-carboxylate (Compound No. 32).
A mixture comprising 2 g of benzyl 5-hydroxy-2-methyl-3-methoxycarbonylbenzofuran-4-carboxylate, 1 g of 4,6-dimethoxy-2-methylsulfonyl-1,3,5-triazine and 1 g of potassium carbonate in 20 ml of N,N-dimethylformamide, was heated and stirred at 70° C. for two hours. The mixture was returned to room temperature, poured into ice water and extracted with ethyl acetate. The organic layer was washed with water and then dried over anhydrous sodium sulfate. Then, it was concentrated under reduced pressure, and the obtained solid was thoroughly washed with ethanol to obtain 2.4 g (yield: 86%) of the desired compound.

reactant | benzyl 5-hydroxy-2-methyl-3-methoxycarbonylbenzofuran-4-carboxylate | 2 g | OC1=CC=C2C(C(=C(O2)C)C(=O)OC)=C1C(=O)OCC1=CC=CC=C1 | C19H16O6
reactant | 4,6-dimethoxy-2-methylsulfonyl-1,3,5-triazine | 1 g | COC1=NC(=NC(=N1)OC)S(=O)(=O)C | C6H9N3O4S
reactant | potassium carbonate | 1 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Benzyl 5-(4,6-Dimethoxy-1,3,5-triazin-2-yl)oxy-2-methyl-3-methoxycarbonylbenzofuran-4-carboxylate | 2.4 g, yield: 86% | COC1=NC(=NC(=N1)OC)OC1=CC=C2C(C(=C(O2)C)C(=O)OC)=C1C(=O)OCC1=CC=CC=C1 | C24H21N3O8
